US08124606B2
tert-butyl 4-(4-(ethylcarbamoyl)-2,5-difluorophenyl)piperazine-1-carboxylate (0.020 g, 0.054 mmol) was diluted with 4.0M HCl in dioxane (3 mL) and stirred for 30 min. The thick white precipitate that formed was diluted with ethyl ether (10 mL) and stirred until a fine suspension resulted. The precipitate was filtered under nitrogen and dried in vacuum to afford N-ethyl-2,5-difluoro-4-(piperazin-1-yl)benzamide hydrochloride (16.2 mg, 0.053 mmol, 98% yield) as a white solid. ESI-MS: m/z 270 (M+H)+.

reactant | tert-butyl 4-(4-(ethylcarbamoyl)-2,5-difluorophenyl)piperazine-1-carboxylate | 0.054 mmol, 0.020 g | C(C)NC(=O)C1=CC(=C(C=C1F)N1CCN(CC1)C(=O)OC(C)(C)C)F | C18H25F2N3O3
reactant | HCl | 4.0M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | N-ethyl-2,5-difluoro-4-(piperazin-1-yl)benzamide hydrochloride | 0.053 mmol, 16.2 mg, 98% yield | Cl.C(C)NC(C1=C(C=C(C(=C1)F)N1CCNCC1)F)=O | InChI=1S/C13H17F2N3O.ClH/c1-2-17-13(19)9-7-11(15)12(8-10(9)14)18-5-3-16-4-6-18;/h7-8,16H,2-6H2,1H3,(H,17,19);1H
